US07459448B2
N-(5-Iodo-2-methyl-phenyl)-acetamide (c)
A solution of 5-iodo-2-methyl-phenylamine (20.4 g, 87.6 mmol) in 200 mL of dry CH2Cl2 was cooled to 0° C. and acetic anhydride (16.5 mL, 175 mmol) was added dropwise. The mixture was heated to 50° C. for 2 h and then cooled to 22° C. The resulting white precipitate was filtered to give c (18.4 g, 76%): MS m/z═276 (M+H).

reactant | 5-iodo-2-methyl-phenylamine | 87.6 mmol, 20.4 g | IC=1C=CC(=C(C1)N)C | C7H8IN
reactant | acetic anhydride | 175 mmol, 16.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Iodo-2-methyl-phenyl)-acetamide | IC=1C=CC(=C(C1)NC(C)=O)C | C9H10INO
